US06221898B1
(i) 3-[2-(4-Cyanophenyl)ethoxy]-5-methylphenol
Triphenylphoshine (7.86 g; 30 mmol), 3,5-dihydroxytoluene (2.5 g; 20 mmol) and 2-(4-cyanophenyl)ethanol (4.41 g; 30 mmol) were dissolved in THF (50 mL). Diethylazodicarboxylate (5.22 g; 30 mmol; dissolved in THF (10 mL)), was added and the solution was stirred at room temperature overnight. The solvent was removed in vacuo and the white solid residue extracted with Et2O. Purification by flash chromatography (SiO2; toluene:EtOAc (10:1)) afforded 1.85 g (37%) of the sub-title compound as a white solid.

reactant | Triphenylphoshine | 30 mmol, 7.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,5-dihydroxytoluene | 20 mmol, 2.5 g | OC=1C=C(C=C(C1)O)C | C7H8O2
reactant | 2-(4-cyanophenyl)ethanol | 30 mmol, 4.41 g | C(#N)C1=CC=C(C=C1)CCO | C9H9NO
reactant | Diethylazodicarboxylate | 30 mmol, 10 mL, 5.22 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-[2-(4-Cyanophenyl)ethoxy]-5-methylphenol | 1.85 g, 37% | C(#N)C1=CC=C(C=C1)CCOC=1C=C(C=C(C1)C)O | C16H15NO2
